2140-11-04 06:26:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 INVASIVE VENTILATION - START [**2140-11-3**] 05:40 PM
 BRONCHOSCOPY - At [**2140-11-3**] 06:07 PM - friable, erythematous tissue;
   extraction of mucus - placement of OG tube and ETT which was left in
   place overnight.
   Allergies:
   Losartan
   angioedema/lip
   Lisinopril (Oral)
   Cough;
   Penicillins
   itching;
   Flagyl (Oral) (Metronidazole)
   Wheezing;
   Last dose of Antibiotics:
   Cefipime - [**2140-11-4**] 01:57 AM
   Vancomycin - [**2140-11-4**] 04:55 AM
   Infusions:
   Fentanyl - 50 mcg/hour
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2140-11-4**] 12:28 AM
   Midazolam (Versed) - [**2140-11-4**] 03:53 AM
   Heparin Sodium (Prophylaxis) - [**2140-11-4**] 04:54 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2140-11-4**] 06:26 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 35.9
C (96.7
   Tcurrent: 35.9
C (96.7
   HR: 58 (53 - 84) bpm
   BP: 80/54(60) {75/50(57) - 182/107(125)} mmHg
   RR: 16 (14 - 27) insp/min
   SpO2: 100%
   Heart rhythm: SB (Sinus Bradycardia)
   Height: 64 Inch
             Total In:
                                                                    576 mL
                                                                    396 mL
   PO:
             TF:
   IVF:
                                                                    576 mL
                                                                    196 mL
   Blood products:
   Total out:
                                                                    250 mL
                                                                    160 mL
   Urine:
                                                                    250 mL
                                                                    160 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    326 mL
                                                                    236 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST
   Vt (Set): 400 (400 - 450) mL
   RR (Set): 14
   RR (Spontaneous): 1
   PEEP: 10 cmH2O
   FiO2: 60%
   RSBI Deferred: PEEP > 10
   PIP: 35 cmH2O
   Plateau: 25 cmH2O
   Compliance: 40 cmH2O/mL
   SpO2: 100%
   ABG: 7.51/39/220/30/7
   Ve: 7.1 L/min
   PaO2 / FiO2: 367
   Physical Examination
   General Appearance: Intubated but responsive.  Denies pain, wants trach
   tube out
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Diminished), (Left DP pulse: Diminished)
   Respiratory / Chest: Quiet breath sounds bilaterally.  Trace right
   sided wheezing
   Abdominal: Soft, Non-tender, Bowel sounds present, Obese
   Extremities: Right: 2+, Left: 2+
   Skin:  Cool, multiple skin tears
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): x3, Movement: Purposeful, Tone: Normal,
   coherent response to interview. moving all 4 extremities symmetrically
   Labs / Radiology
   328 K/uL
   10.5 g/dL
   198 mg/dL
   0.8 mg/dL
   30 mEq/L
   3.3 mEq/L
   24 mg/dL
   104 mEq/L
   141 mEq/L
   32.4 %
   13.2 K/uL
        [image002.jpg]
   Vanc 17.3
                             [**2140-11-3**]  02:39 PM
                             [**2140-11-3**]  09:08 PM
                             [**2140-11-4**]  01:08 AM
                             [**2140-11-4**]  04:06 AM
   WBC
   13.2
   Hct
   32.4
   Plt
   328
   Cr
   0.8
   TropT
   0.07
   0.06
   TCO2
   31
   32
   Glucose
   198
   Other labs: CK / CKMB / Troponin-T:53//0.06, Lactic Acid:3.1 mmol/L,
   Ca++:7.6 mg/dL, Mg++:2.6 mg/dL, PO4:3.7 mg/dL
   BNP 3466
   Bronch: GS 1+ PML, 2+ GNR, 1+ yeast
   CXR: Compared to yesterday, opacification of L lung field has mostly
   resolved.  ET Tube in place.
   Assessment and Plan
   80 year old woman with history of COPD, diastolic CHF, atrial
   fibrillation, and recent UTI, pneumonia, and c dif colitis presenting
   with acute onset of hypoxia.
   Hypoxia:  Thought to be due to volume overload from mucus plugging,
   trachiomalacia, PNA and volume overload.  GNR on GS concerning for
   pseudomonas.
   - Repeat bronchoscopy today to eval mucosa, assess LLL
   - Goal to extubate post bronchoscopy.  Will lower RR and tolerate some
   hypercapnea given h/o COPD to increase respiratory drive.  Low RSBI,
   though good prognosis.
   - f/u TTE
   - diuresis as tolerated
   - Steroid (IV methylpred 40 mg q 12) for COPD exacerbation, will wean
   post bronch.  Albuterol/Ipratroprium
   - PEEP of 5
   - fent gtt/versed bolus for sedation
   - Vanc/Cefepime for PNA coverage
   Elevated lactate: more likely related to severe hypoxia with markedly
   elevated work of breathing as opposed to systemic or regional
   hypoperfusion.  no clear medications to implicate.  appears
   hemodynamically stable and w/o abdominal pain to suggest mesenteric
   ischemia.  CXR negative for free air.
   - continue to trend
   - antibiotics as above
   C dif colitis: much decreased diarrhea per patient. will continue
   therapy until pneumonia directed antibiotics are completed.
   - continue po vanc per prior protocol
   Atrial fibrillation: currently sinus rhythm w/o ischemic changes.
   - monitor for need for rate control agents once sedation weans
   ICU Care
   Nutrition: NPO except meds.  TF not indicated
   Glycemic Control:  ISS
   Lines:
   20 Gauge - [**2140-11-3**] 05:24 PM
   22 Gauge - [**2140-11-3**] 05:25 PM
   Prophylaxis:
   DVT: SQ heparin
   Stress ulcer:  Lansoprasol
   VAP:  Per routine
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU while intubated.

2140-11-05 06:44:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 TRANSTHORACIC ECHO - At [**2140-11-4**] 10:04 AM - unchanged
 BRONCHOSCOPY - At [**2140-11-4**] 01:30 PM - improved, still friable
   tissue
 INVASIVE VENTILATION - STOP [**2140-11-4**] 05:20 PM - extubated
   Allergies:
   Losartan
   angioedema/lip
   Lisinopril (Oral)
   Cough;
   Penicillins
   itching;
   Flagyl (Oral) (Metronidazole)
   Wheezing;
   Last dose of Antibiotics:
   Cefipime - [**2140-11-4**] 12:10 PM
   Vancomycin - [**2140-11-4**] 08:00 PM
   Infusions:
   Other ICU medications:
   Midazolam (Versed) - [**2140-11-4**] 01:30 PM
   Heparin Sodium (Prophylaxis) - [**2140-11-4**] 10:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2140-11-5**] 06:44 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.8
   Tcurrent: 36.2
C (97.2
   HR: 63 (44 - 72) bpm
   BP: 100/50(62) {83/48(59) - 153/85(95)} mmHg
   RR: 14 (10 - 28) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 64 Inch
             Total In:
                                                                  2,118 mL
                                                                    227 mL
   PO:
                                                                    360 mL
                                                                    160 mL
   TF:
   IVF:
                                                                  1,138 mL
                                                                     67 mL
   Blood products:
   Total out:
                                                                    680 mL
                                                                    370 mL
   Urine:
                                                                    680 mL
                                                                    370 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,438 mL
                                                                   -143 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: Standby
   Vt (Set): 400 (400 - 400) mL
   PS : 5 cmH2O
   RR (Set): 14
   PEEP: 0 cmH2O
   FiO2: 50%
   RSBI: 38
   PIP: 31 cmH2O
   SpO2: 95%
   ABG: 7.39/54/53//5
   Ve: 10.4 L/min
   PaO2 / FiO2: 106
   Physical Examination
   General Appearance: Intubated but responsive.  Denies pain, wants trach
   tube out
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Diminished), (Left DP pulse: Diminished)
   Respiratory / Chest: Quiet breath sounds bilaterally.  Trace right
   sided wheezing
   Abdominal: Soft, Non-tender, Bowel sounds present, Obese
   Extremities: Right: 2+, Left: 2+
   Skin:  Cool, multiple skin tears
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): x3, Movement: Purposeful, Tone: Normal,
   coherent response to interview. moving all 4 extremities symmetrically
   Labs / Radiology
   328 K/uL
   10.5 g/dL
   198 mg/dL
   0.8 mg/dL
   30 mEq/L
   4.1 mEq/L
   24 mg/dL
   104 mEq/L
   141 mEq/L
   32.4 %
   13.2 K/uL
        [image002.jpg]
                             [**2140-11-3**]  02:39 PM
                             [**2140-11-3**]  09:08 PM
                             [**2140-11-4**]  01:08 AM
                             [**2140-11-4**]  04:06 AM
                             [**2140-11-4**]  11:51 AM
   WBC
   13.2
   Hct
   32.4
   Plt
   328
   Cr
   0.8
   TropT
   0.07
   0.06
   TCO2
   31
   32
   34
   Glucose
   198
   Other labs: CK / CKMB / Troponin-T:53//0.06, Lactic Acid:2.1 mmol/L,
   Ca++:7.6 mg/dL, Mg++:2.6 mg/dL, PO4:3.7 mg/dL
   Assessment and Plan
   80 year old woman with history of COPD, diastolic CHF, atrial
   fibrillation, and recent UTI, pneumonia, and c dif colitis presenting
   with acute onset of hypoxia.
   Hypoxia:  Thought to be due to volume overload from mucus plugging,
   trachiomalacia, PNA and volume overload.  GNR on GS concerning for
   pseudomonas.
   - Repeat bronchoscopy today to eval mucosa, assess LLL
   - Goal to extubate post bronchoscopy.  Will lower RR and tolerate some
   hypercapnea given h/o COPD to increase respiratory drive.  Low RSBI,
   though good prognosis.
   - f/u TTE
   - diuresis as tolerated
   - Was on Steroid (IV methylpred 40 mg q 12) for COPD exacerbation,
   start Prednisone taper PO tomorrow AM.  Albuterol/Ipratroprium
   - PEEP of 5
   - fent gtt/versed bolus for sedation
   - Vanc/Cefepime for PNA coverage 8 day course
   Elevated lactate: more likely related to severe hypoxia with markedly
   elevated work of breathing as opposed to systemic or regional
   hypoperfusion.  no clear medications to implicate.  appears
   hemodynamically stable and w/o abdominal pain to suggest mesenteric
   ischemia.  CXR negative for free air.
   - continue to trend
   - antibiotics as above
   C dif colitis: much decreased diarrhea per patient. will continue
   therapy until pneumonia directed antibiotics are completed.
   - continue po vanc per prior protocol
   Diabetes:  Has elevated blood sugars since resuming diet on steroids.
   Will add NPH this afternoon.  Required 10 U coverage q6 this afternoon,
   will start with NPH 10 U [**Hospital1 **].
   - Watch carefully while tapering steroids.
   Atrial fibrillation: currently sinus rhythm w/o ischemic changes.
   - monitor for need for rate control agents once sedation weans
   ICU Care
   Nutrition:
   Glycemic Control:  as above
   Lines:
   20 Gauge - [**2140-11-3**] 05:24 PM
   22 Gauge - [**2140-11-4**] 06:33 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: To Floor today (would prefer [**Hospital Ward Name 790**] 2)